US06677337B2
Preparation of 4-[4-(4-fluorophenyl)-2-methyl-5-(2-methanesulfonyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester (12):
To a solution of 4-[4-(4-fluorophenyl)-2-methyl-5-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester, 11, (5.9 g, 12 mmol) in CHCl3 (200 mL) at 0° C. is added meta-chloroperbenzoic acid (4 g, 23.37 mmol). After stirring for 5 minutes, saturated sodium bisulfite (20 mL) is added and the reaction mixture stirred for an additional 5 minutes. The aqueous phase is extracted three times with CH2Cl2, the combined organic phases washed with saturated sodium bicarbonate, dried (MgSO4), filtered and concentrated in vacuo. The crude material is used without further purification.

reactant | 4-[4-(4-fluorophenyl)-2-methyl-5-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N(C(C(=C1C1=NC(=NC=C1)SC)C1=CC=C(C=C1)F)=O)C | C25H30FN5O3S
reactant | meta-chloroperbenzoic acid | 23.37 mmol, 4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | 20 mL | S([O-])(O)=O.[Na+]
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(4-fluorophenyl)-2-methyl-5-(2-methanesulfonyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N(C(C(=C1C1=NC(=NC=C1)S(=O)(=O)C)C1=CC=C(C=C1)F)=O)C | C25H30FN5O5S
